US08241680B2
Anatabine was prepared synthetically using 3-aminomethylpyridine and benzophenoneimine as starting materials, according to the procedures described below.

reactant | 3-aminomethylpyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | benzophenoneimine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
product | Anatabine | C1C=CCN[C@@H]1C2=CN=CC=C2 | C10H12N2
